US05753679
40 ml (0.04 mol) of 1M BH3 in THF were added to a solution of 3.11 g (0.01 mol) of 1-benzoyl-4-thiophenoxymethyl-piperidine in 50 ml of THF. The mixture was boiled at reflux for 16 hrs. Then, 90 ml of 1N aqueous HCI were added and the mixture was stirred for 1.5 hrs. It was extracted with ether and concentrated and the residue was taken up in a mixture of 20 ml of glacial acetic acid and 20 ml of THF and boiled at reflux for 3 hrs. The solvents were distilled off and the residue was taken up in ethyl acetate, washed with saturated sodium carbonate solution and sodium chloride solution and dried over sodium sulfate. The solvent was removed and the residue was chromatographed on silica gel with ethyl acetate/hexane (1:9) as the eluent. 2.3 g (77%) of 1-benzyl-4-phenylsulfanylmethyl-piperidine were obtained as a colorless oil. MS: me/e=298 (C19H24NS+).

reactant | 1-benzoyl-4-thiophenoxymethyl-piperidine | 0.01 mol, 3.11 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)CSC1=CC=CC=C1 | C19H21NOS
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-benzyl-4-phenylsulfanylmethyl-piperidine | 2.3 g, 77% | C(C1=CC=CC=C1)N1CCC(CC1)CSC1=CC=CC=C1 | C19H23NS
